US05610177
a) Di-t-butyl (1-naphthylmethyl)malonate
A suspension of 5.96 g (0.124 mol) of NaH.oil (50%) was washed with THF to remove the oil, then suspended in 450 mL THF. Di-t-butyl malonate (25.4 mL, 0.113 mol) was then added causing a mild exotherm. The solution was heated to reflux for 45 minutes, then cooled to 30° C. A solution of 20.0 g (0.113 mol) of 1-chloromethylnaphthalene in 50 mL THF was then added and the solution heated at reflux for 3 hours, then left stirring overnight. The mixture was filtered and the filtrate removed under reduced pressure. The residue was taken up in EtOAc and washed with 1N citric acid, saturated NaCl, saturated NaHCO3, then saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 39.65 g (98.4% yield) of the product as an oil.

reactant | NaH | 0.124 mol, 5.96 g | [H-].[Na+]
reactant | Di-t-butyl malonate | 0.113 mol, 25.4 mL | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 1-chloromethylnaphthalene | 0.113 mol, 20.0 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Di-t-butyl (1-naphthylmethyl)malonate | 39.65 g, 98.4% yield | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H28O4
